US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 4-(2-methoxy-phenyl)-piperidine in dioxane in the presence of N-ethyl-diisopropylamine at 90° C. to yield 2,4-bis-(2-hydroxy-ethylamino)-6-[4-(2-methoxy-phenyl)-piperidin-1-yl]-pyrimidine-5-carbonitrile as a white lyophilisate; MS: [M+H]+=413.

reactant | 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCCO | C9H12ClN5O2
reactant | 4-(2-methoxy-phenyl)-piperidine | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,4-bis-(2-hydroxy-ethylamino)-6-[4-(2-methoxy-phenyl)-piperidin-1-yl]-pyrimidine-5-carbonitrile | OCCNC1=NC(=C(C(=N1)NCCO)C#N)N1CCC(CC1)C1=C(C=CC=C1)OC | C21H28N6O3
